US06908929B2
2-(4-Piperidinopropoxyphenyl)-8-methylimidazo[1,2-a]pyridine Ki=1 nM
This compound was prepared according to the procedure described in Example 1 of U.S. Pat. No. 4,727,145 or J. Med. Chem. 188, 31, 2221 et seq., above using 2-(4-chloropropoxyphenyl)-8-methylimidazo[1,2-a]pyridine and piperidine instead of 2-(4-chloropropoxyphenyl)-imidazo[1,2-a]pyridine and dibutylamine respectively. Analysis: Calc'd for C22H27N3O 3HCl 1H2O; C, 6.76; H, 55.41; N, 8.81. Found: C, 6.63; H, 55.02; N, 8.55.

reactant | 2-(4-chloropropoxyphenyl)-8-methylimidazo[1,2-a]pyridine | ClCCCOC1=CC=C(C=C1)C=1N=C2N(C=CC=C2C)C1 | C17H17ClN2O
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | dibutylamine | C(CCC)NCCCC | C8H19N
product | 2-(4-Piperidinopropoxyphenyl)-8-methylimidazo[1,2-a]pyridine | N1(CCCCC1)CCCOC1=CC=C(C=C1)C=1N=C2N(C=CC=C2C)C1 | C22H27N3O
